US09145411B2
Step 2: 5-(6-Fluoro-7-(3-(methylsulfonyl)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-amine
To a 25 mL flask, tert-butyl (5-(6-fluoro-7-(3-(methylsulfonyl)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-yl)carbamate (0.06 g, 0.0001 mol) and 1,4-dioxane (4 mL) were added. The reaction mixture was cooled to 0° C. To the flask, 4 N HCl in 1,4-dioxane (6 mL) was added. The reaction mixture was stirred at room temperature for 12 hours. The volatiles were evaporated under reduced pressure to provide the crude product. The crude product was purified by preparative HPLC (10 mM ammonium acetate in water and acetonitrile) to provide the title compound (0.01 g, 7%). 1H NMR (400 MHz, DMSO-d6): δ 9.21 (s, 2H), 8.23 (s, 1H), 8.13-8.07 (m, 3H), 8.02 (d, J=11.2 Hz, 1H), 7.88 (t, J=8.0 Hz, 1H), 7.42 (br s, 2H), 3.96 (br s, 4H), 3.84 (br s, 4H), 3.43 (s, 3H): LC-MS (ESI): Calculated mass: 480.1; Observed mass [M+H]+: 481.1 (RT=0.30 min).

reactant | tert-butyl (5-(6-fluoro-7-(3-(methylsulfonyl)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-yl)carbamate | 0.0001 mol, 0.06 g | FC=1C=C2C(=NC(=NC2=CC1C1=CC(=CC=C1)S(=O)(=O)C)C=1C=NC(=NC1)NC(OC(C)(C)C)=O)N1CCOCC1 | C28H29FN6O5S
reactant | HCl | 4 N | Cl | ClH
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-(6-Fluoro-7-(3-(methylsulfonyl)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-amine | 0.01 g, 7% | FC=1C=C2C(=NC(=NC2=CC1C1=CC(=CC=C1)S(=O)(=O)C)C=1C=NC(=NC1)N)N1CCOCC1 | C23H21FN6O3S
